US04113591
Phenylacetyl chloride (0.58 ml, 1.1 equiv.) was added to a stirred solution of t-butyl 7β-amino-3-methylceph-3-em-4-carboxylate (1.08 g, 4 mmole) in dimethylacetamide (2.5 ml) and acetonitrile (10 ml.) The mixture was stirred at ca. 25° for 45 minutes and the acetonitrile was removed in vacuo. Water (50 ml) and ethyl acetate (150 ml) were added and the organic phase was washed with water, 3% sodium hydrogen carbonate solution and water (50 ml of each), dried and evaporated. The residual colourless oil was dissolved in methylene chloride (10 ml) and cooled in an ice-bath while peracetic acid (40% w/v; 1.16 ml, 1.1 equiv.) was added dropwise. The solution was stirred at ca. 20° for 30 minutes and saturated sodium hydrogen carbonate solution (20 ml) was added. The organic phase was washed with water (50 ml), dried and evaporated to a white gelatinous solid, t.l.c. (acetone-methylene chloride; 1:4) Rf 0.49, 0.80, which was purified by chromatography on Kieselgel G (50g). Elution with acetonemethylene chloride (1:9) gave a pale yellow solid which was crystallised from acetone-light petroleum, b.p. 40°-60° (1:1; 10 ml) to give t-butyl 3-methyl-7β-phenylacetamidoceph-3-em-4-carboxylate, 1,1-dioxide (0.17 g, 11 %), m.p. 87 to 88°, [α]D + 36.5°, λmax. 259 nm (ε 8,150), νmax. (CHBr3) 3410 (NH), 1798 (acetidin-2-one), 1714 (CO2R) and 1680 and 1510 cm-1 (CONH), τ (CDCl3) 2.66 (5H,s; C6H5), 3.06 (1H,d, J 10.5 Hz; NH), 3.90 (1H,dd, J 10.5, 5Hz; C7 -H), 5.19 (1H,d, J 5 Hz; C6 -H), 6.09, 6.55 (2H, AB-q, J 18 Hz; C2 -H2), 6.34 (2H,s; C6H5CH2), 7.94 (3H,s; C3 -CH3), 8.49 (9H,s; CO2C(CH3)3). (Found: C, 56.9; 56.6; H, 5.8; 5.7; N, 6.3, 6.3; S, 7.4 C20H24N2O6S (420.5) requires C, 57.1; H, 5.75; N, 6.7; S, 7.6%). Further elution with acetone-methylene chloride (1:9) gave a white gelatinous solid which dissolved in acetone (10 ml) and reprecipitated by addition of light petroleum (b.p. 40°-60°; 10 ml) to give the title ester 1β-oxide (1.04 g, 67%), m.p. 181° to 182° (dec), [α]D + 164°, λmax. 265 nm (ε 7,900), νmax. (CHBr3) 3390 (NH), 1790 (azetidin-2-one), 1716 (CO2R), 1678 and 1510 (CONH) and 1050 cm-1 (S→O), τ (CDCl3 + 3 drops Me2SO-d6) 2.68 (5H,s; C6H5), 4.12 (1H,dd, J 9.5,4.5 Hz; C7 -H), 5.34 (1H,d, J 4.5 Hz; C6 -H), 6.37 (2H,s; C6H5CH2), 6.56 (2H,s; C2 -H2), 7.91 (3H,s; C3 -CH3), 8.47 (9H,s; CO2C(CH3)3) (Found: C, 60.0, 59.6; H, 6.1, 5.9; N, 6.7, 6.7; S, 7.8 C20H24N2O5S (404.5) requires C, 59.4; H, 6.0; N, 6.9; S, 7.9%).

reactant | Phenylacetyl chloride | 0.58 ml, 1.1 equiv. | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | t-butyl 7β-amino-3-methylceph-3-em-4-carboxylate | 4 mmole, 1.08 g | N[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OC(C)(C)C)C1=O | C12H18N2O3S
reactant | peracetic acid | 1.16 ml, 1.1 equiv. | C(C)(=O)OO | C2H4O3
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | dimethylacetamide | 2.5 ml | CC(=O)N(C)C | C4H9NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | t-butyl 3-methyl-7β-phenylacetamidoceph-3-em-4-carboxylate | CC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C20H24N2O4S
